US06225310B1
a) N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(1-ethylpentyl)thiourea
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and 1-ethylpentyl isothiocyanate by a procedure analogous to the procedure described in example 3-a; a syrup was obtained (yield 36%), 1H-NMR (DMSO-d6): δ0.8 (2 q, 6H, 2×CH3), 1.2 (m, 4H), 1.5 (m, 4H), 4.20 (sextet, 1H, CH), 6.55 (br, 2H, NH2), 6.65 (s, 1H, H4), 7.85 (br d, 1H, NH), 11.3 (br s, 1H, NH).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | 1-ethylpentyl isothiocyanate | C(C)C(CCCC)N=C=S | C8H15NS
product | N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(1-ethylpentyl)thiourea | yield 36% | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(=S)NC(CCCC)CC | C12H20ClN3O2S3
